US07951824B2
Step 3: 4-(3,5-Difluorophenyl)-6-methyl-pyridine-2-carboxylic acid (4-cyanomethyl-thiazol-2-yl)-amide
The title compound, was prepared from 4-(3,5-Difluorophenyl)-6-methyl-pyridine-2-carboxylic acid ethyl ester in accordance with the general method of example 26, step 6 using (2-Amino-thiazol-4-yl)-acetonitrile instead of 3-chloroaniline to yield the final compound as a off-white solid, MS (ISP): m/e=371.2 (M+H)+.

reactant | 4-(3,5-Difluorophenyl)-6-methyl-pyridine-2-carboxylic acid ethyl ester | C(C)OC(=O)C1=NC(=CC(=C1)C1=CC(=CC(=C1)F)F)C | C15H13F2NO2
reactant | (2-Amino-thiazol-4-yl)-acetonitrile | NC=1SC=C(N1)CC#N | C5H5N3S
product | 4-(3,5-Difluorophenyl)-6-methyl-pyridine-2-carboxylic acid (4-cyanomethyl-thiazol-2-yl)-amide | C(#N)CC=1N=C(SC1)NC(=O)C1=NC(=CC(=C1)C1=CC(=CC(=C1)F)F)C | C18H12F2N4OS
